US07465738B2
2-methyl-5-nitro-1H-indole-3-carbonitrile (200 mg, 0.98 mmol) was dissolved in DMF (4 mL) followed by the addition of N,N-dimethylformamide dimethyl acetal (452 mg, 505 μL, 3.8 mmol). The mixture was heated at 80° C. for 0.5 h and turned from amber-colored to dark red over the course of the reaction. The solvent was removed in vacuo and the crude solid was washed with 5:1 EtOAc/hexane (6×10 mL), followed by hexane (2×10 mL) to obtain 2-((E)-2-(dimethylamino)vinyl)-1-methyl-5-nitro-1H-indole-3-carbonitrile as a dark burgundy solid (235 mg, 89% yield) after drying. Mass and purity were confirmed by LC/MS using an acetonitrile gradient with 5 mM ammonium formate pH 6.5. Theoretical (M+H)+ m/z for C14H14N4O2=271.11; Found 271.07. 1H NMR (400 mHz, DMSO-d6) δ 8.12 (d, J=2.2 Hz, 1H), 7.99 (dd, J=9.0, 2.3 Hz, 1H), 7.72 (d, J=13.3 Hz, 1H), 7.61 (d, J=9.0 Hz, 1H), 5.17 (d, J=13.3 Hz, 1H), 3.73 (s, 3H), 3.00 (s, 6H).

reactant | 2-methyl-5-nitro-1H-indole-3-carbonitrile | 0.98 mmol, 200 mg | CC=1NC2=CC=C(C=C2C1C#N)[N+](=O)[O-] | C10H7N3O2
reactant | N,N-dimethylformamide dimethyl acetal | 3.8 mmol, 505 μL, 452 mg | COC(N(C)C)OC | C5H13NO2
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-((E)-2-(dimethylamino)vinyl)-1-methyl-5-nitro-1H-indole-3-carbonitrile | CN(/C=C/C=1N(C2=CC=C(C=C2C1C#N)[N+](=O)[O-])C)C | C14H14N4O2
